US04022891
200 mg of 1α,3β,24trihydroxycholesta-5,7-diene prepared and separated in the same way as in Example 14, (D-1) was reacted with 2ml. of acetic anhydride and 5 ml. of pyridine at 95° C. for 3 hours. The reaction mixture was placed in ice water, and extracted with 40 ml. of diethyl ether. The ethereal phase was washed with dilute hydrochloric acid, then with alkali, and further with water, and dried. The ether was evaporated off to afford 1α,3β,24-triacetoxycholesta-5,7-diene as a slightly yellowish oily substance.

reactant | 1α,3β,24trihydroxycholesta-5,7-diene | 200 mg | O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H]([C@@H](CCC(C(C)C)O)C)[C@]4(CC[C@@H]3[C@@]12C)C)O | C27H44O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1α,3β,24-triacetoxycholesta-5,7-diene | C(C)(=O)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H]([C@@H](CCC(C(C)C)OC(C)=O)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC(C)=O | C33H50O6
